datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N:14]1[C:13]2=[C:12]([CH:11]([H:10])[C:72]3=[C:73]1[CH:74]=[CH:75][CH:76]=[CH:77]3)[CH:83]=[CH:84][CH:85]=[CH:86]2.[F:20][N+:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1>>C[N+:14]1=[C:13]2[C:12](=[CH:11][C:72]3=[C:73]1[CH:74]=[CH:75][CH:76]=[CH:77]3)[CH:83]=[CH:84][CH:85]=[CH:86]2.[H:10][F:20].[N:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10][C@@H]1C1=CC=CC=C1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C@@H]1C1=CC=CC=C1 10=20;20,21=21"
"C1CC[N:12]([C:11]2=[CH:10]CCCC2)CC1.CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10]1CCCC[C:11]1=[N+:12]1CCCCC1)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][CH+:11][CH2:62][Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[CH:20]([C:31]3=[CH:36][C:35]4=[C:34]5N(CCC4)CC[C:33]5=[CH:32]3)[C:41]3=[CH:42][C:43]4=[C:44]5N(CCC[C:45]5=[CH:46]3)CC4)=[O:12])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1 10,11=10,20;12=11,12"
"CC(C)(C)[O:94][C:83]([N:12]1[CH:11]=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84].F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33]>>CC(C)(C)[O:94][C:83]([N+:12]1=[CH:11][CH:10]([C:20]2(F)[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]2=[O:33])[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)O[B-:63](C2=CC=CC=C2)([CH2:62][CH:11]=[CH2:10])OC1(C)C.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CC1(C)O[B-:63](C2=CC=CC=C2)([CH2:62][CH+:11][CH2:10][CH:20]([C:31]23C4[Co-3:32]2(C#[O+])(C#[O+])(C#[O+])[Co-3:42]43(C#[O+])(C#[O+])C#[O+])[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)OC1(C)C 10,11=10,20"
"COC(=O)CC[C:11](=[CH2:10])[N:12](O[Si](C)(C)C)O[Si](C)(C)C.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl>>COC(=O)CC[C:11]([CH2:10][Cl:20])=[N+:12](O[Si](C)(C)C)O[Si](C)(C)C.Cl[C:21]1=[C:22]([O-:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC(C)(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.CC[O:92][C:61]([CH-:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:62]>>CC[O:92][C:61]([CH:10]([CH:20](C1=CC=CC=C1)[CH:21]=[C:22]=[N-:23])/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:62] 10=20;20,21=21,22;22,23=23"
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.CC[Hg:11][CH2:10]C>>CC[Hg+:11].C[CH2:10][CH:20]1C[O:33][C:22]([O-:23])=[CH:21]1 10,11=10,20;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]\[CH2:62][Si:63](C)(C)C.C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[CH:10]([CH+:11][CH2:62][Si:63](C)(C)C)[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[Si:11](C)(C)[H:10].C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC[Si+:11](C)C.C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;20,21=21,22;22,23=23"
"C1CCC[C:11](=[CH2:10])CC1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([CH2:10][C+:11]1CCCCCC1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;20,21=21"
"CN(C)C1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[C:63]([NH:12][C:11](C1=CCCC2=CC=CC=C21)=[CH2:10])=[O:64]>>CN(C)C1=CC=C([CH:20]([CH2:10][C:11](C2=CCCC3=CC=CC=C32)=[NH+:12][C:63](C)=[O:64])[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
